US04668700
69 g (0.3 mol) of phenyl 4-chlorophenylmethyl ketone, 66.3 g (0.6 mol) of 3-chloropropane-1,2-diol and 5.2 g (0.03 mol) of p-toluenesulphonic acid in 600 ml of toluene are refluxed for three days in a water separator. The reaction mixture, when it is cold, is extracted with sodium bicarbonate solution, dried over sodium sulphate and evaporated down in vacuo. 95 g (98% of theory) of 4-chloromethyl-2-(4-chlorophenylmethyl)-2-phenyl-1,3-dioxolane of melting point 65° C. are obtained.

reactant | phenyl 4-chlorophenylmethyl ketone | 0.3 mol, 69 g | ClC1=CC=C(C=C1)CC(=O)C1=CC=CC=C1 | C14H11ClO
reactant | 3-chloropropane-1,2-diol | 0.6 mol, 66.3 g | ClCC(CO)O | C3H7ClO2
reactant | p-toluenesulphonic acid | 0.03 mol, 5.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
product | 4-chloromethyl-2-(4-chlorophenylmethyl)-2-phenyl-1,3-dioxolane | 95 g, 98% | ClCC1OC(OC1)(C1=CC=CC=C1)CC1=CC=C(C=C1)Cl | C17H16Cl2O2
